US05641788
A mixture of 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline (1.5 g), diethylamine (1.05 g) and dichloromethane (40 ml) was stirred under reflux for 14 hours. The reaction mixture was washed with water, dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform gave 3-benzoyl-2-(N,N-diethylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline (0.97 g, 66%). This compound was recrystallized from ethyl acetate-hexane to give colorless prisms, mp. 150°-151° C.

reactant | 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | 1.5 g | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C27H24BrNO5
reactant | diethylamine | 1.05 g | C(C)NCC | C4H11N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 3-benzoyl-2-(N,N-diethylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | 0.97 g, 66% | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CN(CC)CC | C31H34N2O5
